US04640920
1-[4-(7-Chloro-4-quinazolinylamino)benzenesulphonyl]-4-methylpiperazine
N-Methylpiperazine (1.0 g, 0.01 mole) was dissolved in chloroform (50 ml). Sodium carbonate (10 g) was dissolved in water (50 ml). The solutions were combined and cooled to 10° C. 4-(7-Chloro-4-quinazolinylamino)benzenesulphonyl chloride hydrochloride (3.85 g, 0.01 mole) was added in portions to the vigorously stirred solution. Stirring was continued for one hour. The chloroform layer was separated, dried and evaporated. The resulting gummy solid was redissolved in chloroform and chromatographed on an alumina column. Elution with chloroform gave a first band which was discarded. The second band was obtained as a low melting solid, which was converted to the hydrochloride by dissolving in ethanol and adding ethereal hydrogen chloride to give the title compound as the sesquihydrochloride (650 mg) m.p. 237°-239° C.

reactant | N-Methylpiperazine | 0.01 mole, 1.0 g | CN1CCNCC1 | C5H12N2
reactant | Sodium carbonate | 10 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 4-(7-Chloro-4-quinazolinylamino)benzenesulphonyl chloride hydrochloride | 0.01 mole, 3.85 g | Cl.ClC1=CC=C2C(=NC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)Cl
reactant | hydrochloride | Cl | ClH
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 1-[4-(7-Chloro-4-quinazolinylamino)benzenesulphonyl]-4-methylpiperazine | ClC1=CC=C2C(=NC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C | C19H20ClN5O2S
